US07863283B2
N′-(4-Bromo-2-cyano-5-nitrophenyl)-N,N-dimethylformimidamide
2-Amino-5-bromo-4-nitrobenzonitrile (815 mg, 3.37 mmol) is admixed with N,N-dimethylformamide dimethyl acetal (1.65 mL, 12.5 mmol). After 20 minutes in an ultrasonic bath, excess N,N-dimethylformamide dimethyl acetal is removed on a rotary evaporator to leave, after chromatographic purification of the residue (silica gel, n-hexane/ethyl acetate: 0→60% ethyl acetate) the product in 86% yield (863 mg).

reactant | 2-Amino-5-bromo-4-nitrobenzonitrile | 3.37 mmol, 815 mg | NC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])Br | C7H4BrN3O2
reactant | N,N-dimethylformamide dimethyl acetal | 12.5 mmol, 1.65 mL | COC(N(C)C)OC | C5H13NO2
product | N′-(4-Bromo-2-cyano-5-nitrophenyl)-N,N-dimethylformimidamide | 86% yield | BrC1=CC(=C(C=C1[N+](=O)[O-])N=CN(C)C)C#N | C10H9BrN4O2
